US09260375B2
2,3-Diethyl maleic acid diethyl ester
To a solution of diisopropylamine (654 mg, 6.46 mmol) in anhydrous tetrahydrofuran (5 mL) under the atmosphere of argon was added a 1.58 M n-butyl lithium-hexane solution (3.9 mL, 6.4 mmol) with stirring under ice cooling, and the mixture was stirred at 0° C. for 10 min and at −90° C. for 5 min. To the mixture, a solution of ethyl 2-bromo-n-butyrate (1.00 g, 5.13 mmol) in anhydrous tetrahydrofuran (9.5 mL) was added dropwise at −90° C., and the mixture was stirred for 30 min. Copper (I) iodide (489 mg, 2.56 mmol) was added at the same temperature, and the mixture was vigorously stirred further 5 min. The temperature was raised to 0° C. with stirring, and a saturated aqueous ammonium chloride solution (30 mL) was added. The reaction mixture was directly filtered, and the filtrate was concentrated under reduced pressure. The residue was diluted with water and extracted twice with ethyl acetate, and the combined organic layer was washed sequentially with water and brine and concentrated. The residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 9:1) to give 368.4 mg of the title compound as oil (yield: 63%).

reactant | diisopropylamine | 6.46 mmol, 654 mg | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 2-bromo-n-butyrate | 5.13 mmol, 1.00 g | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.5 mL | O1CCCC1 | C4H8O
catalyst | Copper (I) iodide | 2.56 mmol, 489 mg | [Cu]I
product | 2,3-Diethyl maleic acid diethyl ester | 368.4 mg, yield: 63% | C(C)OC(\C(=C(/C(=O)OCC)\CC)\CC)=O | C12H20O4
